US07026336B1
2-Chloro-5-[2-(1,1-dimethyl-2-morpholin-4-yl-ethyl)-5-pyridin-4-yl-1H-imidazol-4-yl]-phenol
2-[4-(4-Chloro-3-methoxy-phenyl)-5-pyridin-4-yl-1H-imidazol-2-yl]-2-methyl-propionic acid methyl ester The title compound (5.1 g, 36%) was prepared from the product of Example 1 Step 3 and 2,2-dimethyl-3-oxo-propionic acid methyl ester (H. Kim et al, Synth. Commun., 1997, 27, 2505) using the method described in Example 1 Step 4; MS(ES+) m/e 386/388 [M+H]+. Step 2. 2-[4-(4-Chloro-3-hydroxy-phenyl)-5-pyridin-4-yl-1yl-1H-imidazol-2-yl]-2-methyl-propionic acid A solution of the product of Step 1 (5.0 g, 13.0 mmol) in dichloromethane (200 ml) was cooled to 0° C. and treated with boron tribromide (1M solution in dichloromethane, 65 ml). The solution was allowed to warm to room temperature and stirred for 16 hours. Water (30 ml) was added and the mixture heated to reflux for 30 min. The reaction was concentrated in vacuo to remove the dichloromethane, washed with ethyl acetate and then filtered through celite. The pH of the aqueous phase was adjusted to 11 by the addition of aqueous sodium hydroxide solution and the mixture heated to 50° C. for 2 hours. The reaction mixture was washed with ethyl acetate and the aqueous phase adjusted to pH 4.5 whereby the product precipitated. The precipitate was collected by collected by filtration, washed with water and diethyl ether and dried over phosphorus pentoxide to give the title compound (2.36 g, 51%); MS(ES+) m/e 358/360 [M+H]+. Step 3. 2-[4-(4-Chloro-3-hydroxy-phenyl)-5-pyridin-4-yl-1H-imidazol-2-yl]-2-methyl-propionyl chloride Oxalyl chloride (2.5 ml, 28.6 mmol) was added to a suspension of the product of Step 2 (2.1 g, 5.87 mmol) in dichloromethane (100 ml) containing DMF (0.1 ml). The mixture was heated to reflux for 20 hours and then concentrated in vacuo. The residue was re-suspended in dichloromethane and concentrated in vacuo to yield the title compound which was used directly in the following step. Step 4. 2-[4-(4-Chloro-3-hydroxy-phenyl)-5-pyridin-4-yl-1H-imidazol-2-yl]-N-methoxy-N-methyl-isobutyramide N,O-Dimethylhydroxylamine hydrochloride (630 mg, 6.4 mmol) was added to a suspension of the product of Step 3 in acetonitrile (50 ml). The mixture was cooled to 0° C. and treated with a solution of pyridine (5 ml) in acetonitrile (5 ml). The reaction was stirred at room temperature for 16 hours and then concentrated in vacuo. The residue was redissolved in chloroform, washed with aqueous sodium carbonate solution, dried over magnesium sulphate, filtered and concentrated. The product was purified by silica gel chromatography eluting with chloroform/methanol/0.880 ammonia solution (8:2:0.2) to give the title compound (1.25 g, 53%); MS(ES+) m/e 401/403 [M+H]+. Step 5. 2-[4-(4-Chloro-3-hydroxy-phenyl)-5-pyridin-4-yl-1H-imidazol-2-yl]-2-methyl-propionaldehyde Diisobutylaluminum hydride (12 ml, 1M solution in THF, 12.0 mmol) was added to a solution of the product of Step 4 (1.21 g, 3.0 mmol) in THF (60 ml) at −60° C. The mixture was allowed to warm to room temperature over 2 hours and then cooled to −60° C. before pouring into 2M hydrochloric acid (10 ml) at −20° C. with vigorous stirring. The mixture was warmed to room temperature and then basified with aqueous sodium hydrogen carbonate solution. The product was extracted into chloroform (X 3), dried over magnesium sulphate and concentrated in vacuo to yield the title compound (525 mg, 51%); MS(ES+) m/e 342/344 [M+H]+. Step 6. 2-Chloro-5-[2-(1,1-dimethyl-2-morpholin-4-yl-ethyl)-5-pyridin-4-yl-1H-imidazol-4-yl]-phenol A mixture of the product of the product of Step 5 (100 mg, 0.30 mmol), morpholine (0.05 ml, 0.57 mmol) and polymer bound trimethylammonium cyanoborohydride (150 mg, 0.6 mmol, 4 mmol/g) in methanol (8 ml) containing glacial acetic acid (0.05 ml) was stirred at room temperature for 24 hours. The reaction was then filtered, the filtrate concentrated in vacuo and the product purified by silica gel chromatography eluting with chloroform/methanol/0.880 ammonia solution (9:1:0.1) to yield the title compound (80 mg, 65%); MS(ES+) m/e 413/415 [M+H]+.

reactant | 2-[4-(4-Chloro-3-hydroxy-phenyl)-5-pyridin-4-yl-1H-imidazol-2-yl]-N-methoxy-N-methyl-isobutyramide N,O-Dimethylhydroxylamine hydrochloride | 6.4 mmol, 630 mg | Cl.CNOC.ClC1=C(C=C(C=C1)C=1N=C(NC1C1=CC=NC=C1)C(C(=O)N(C)OC)(C)C)O
reactant | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
product | 2-Chloro-5-[2-(1,1-dimethyl-2-morpholin-4-yl-ethyl)-5-pyridin-4-yl-1H-imidazol-4-yl]-phenol | 1.25 g, 53% | ClC1=C(C=C(C=C1)C=1N=C(NC1C1=CC=NC=C1)C(CN1CCOCC1)(C)C)O | C22H25ClN4O2
